US09278951B2
4,5-diiodoimidazole (5.0 mmol) and KOH (5.0 mmol) were placed in a round bottom flask with 50 mL THF. The mixture was brought to reflux and stirred 0.5 h until KOH was consumed. 2-bromomethylnapthalene (5.0 mmol) was added and the solution was stirred at reflux for 17 hours. KBr was removed by vacuum filtration and the filtrate was collected. The volatiles were removed by rotary evaporation to give 4,5-diiodo-1-(naphthalen-2-ylmethyl)-1H-imidazole as a off white solid. 4,5-diiodo-1-(naphthalen-2-ylmethyl)-1H-imidazole was dissolved in acetonitrile in a round bottom flask. The solution was brought to reflux and excess iodomethane was added. The reaction was stirred at reflux for overnight after which time it was cooled. The resulting yellow precipitate was collected by filtration and analyzed. 1H NMR (300 MHz, d6-DMSO): δ 3.88 (s), 5.64 (s), 7.47-7.60 (m), 7.89-8.02 (m), 9.57 (s) ppm.

reactant | 4,5-diiodoimidazole | 5.0 mmol | IC=1N=CNC1I | C3H2I2N2
reactant | KOH | 5.0 mmol | [OH-].[K+]
reactant | 2-bromomethylnapthalene | 5.0 mmol | BrCC1=CC2=CC=CC=C2C=C1 | C11H9Br
solvent | THF | 50 mL | C1CCOC1 | C4H8O
product | 4,5-diiodo-1-(naphthalen-2-ylmethyl)-1H-imidazole | IC=1N=CN(C1I)CC1=CC2=CC=CC=C2C=C1 | C14H10I2N2
